US08623885B2
Synthesis of tert-butyl 2-chloro-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate
To a slurry of 2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride (106.1 g, 517 mmol, commercially available from D-L Chiral Chemicals, ST-0143) and N,N-diisopropylethylamine (80 g, 108 mL, 621 mmol, 1.2 eq) in DCM (1 L) was added a solution of di-tert-butyl dicarbonate (119 g, 543 mmol, 1.05 eq) in DCM (100 mL) via an addition funnel within 1 hr. The reaction mixture became a clean solution and the solution thus obtained was stirred at room temperature for an additional hour and monitored using LCMS. Upon completion, the reaction mixture was concentrated. The residue was dissolved in EtOAc (1 L) and washed with water (3×300 mL), washed with brine (300 mL) and dried over Mg504. The solvent was evaporated under vacuum to give the title compound as an off-white solid (139 g, yield: 100%). 1H NMR (400 MHz, CDCl3) δ ppm 1.49 (9H, s), 2.97 (2H, t, J=5.9 Hz), 3.73 (2H, t, J=6.0 Hz), 4.57 (2H, s), 7.17 (1H, d, J=8.0 Hz), 7.38 (1H, d, J=8.0 Hz) ppm; LCMS m/z: 269 (M+1).

reactant | 2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride | Cl.ClC1=NC=2CCNCC2C=C1
reactant | N,N-diisopropylethylamine | 621 mmol, 108 mL, 80 g, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 543 mmol, 119 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-chloro-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 139 g, yield: 100% | ClC1=NC=2CCN(CC2C=C1)C(=O)OC(C)(C)C | C13H17ClN2O2
